US07534797B2
1-(2-amino-4-chlorophenyl)ethanone
To a vigourosly stirred, Et2O (100 mL) solution of 2-amino-4-chlorobenzonitrile (1.00 g, 6.55 mmol) cooled in an ice-H2O bath was added MeMgCl (3.0 M in THF, 6.5 mL, 19.7 mmol) dropwise over 5 min. During that time the reaction became a thick yellow suspension. Stirring was continued at the temperature for 1 h before the cooling bath was removed and the reaction stirred for 21 h at rt. The resultant light yellow suspension cooled to −60° C. and treated with aq HCl (5 M, 8 mL, 40 mmol) dropwise over 3 min. The mixture was allowed to warm slowly to rt within the cooling bath. Later more aq HCl (5 M, 6.5 mL, 33 mmol) was added. The Et2O layer was separated, the aq phase was basicified (pH 4-5) by addition of solid KOH and later extracted with EtOAc (3×). The Et2O and EtOAc layers were combined, dried (Na2SO4) and concentrated under reduced pressure to afford the title material which was used without further purification; 1H NMR (400 MHz, CDCl3) δ 7.63 (d, J=8.4 Hz, 1H), 6.65 (d, J=2.0 Hz, 1H), 6.60 (dd, J=2.0 Hz, 8.0 Hz, 1H), 6.40 (br, 2H), 2.55 (s, 3H); MS (ES+): m/z 170.07 (100) [MH+]; HPLC: tR=3.12 min (OpenLynx, polar—5 min).

reactant | 2-amino-4-chlorobenzonitrile | 6.55 mmol, 1.00 g | NC1=C(C#N)C=CC(=C1)Cl | C7H5ClN2
reactant | MeMgCl | 19.7 mmol, 3.0 M, 6.5 mL | C[Mg]Cl
reactant | HCl | 40 mmol, 5 M, 8 mL | Cl | ClH
reactant | HCl | 33 mmol, 5 M, 6.5 mL | Cl | ClH
reactant | Et2O | 100 mL | CCOCC | C4H10O
product | 1-(2-amino-4-chlorophenyl)ethanone | NC1=C(C=CC(=C1)Cl)C(C)=O | C8H8ClNO
